US04220775
D. 4-androsten-3-one-17β-carboxylic acid
To 2.462 kg. of methyl 4-androsten-3-one-17β-carboxylate in 24.6 l of methanol was added 1.23 kg. of potassium hydroxide in 4.9 l. of water. The reaction mixture was refluxed under nitrogen for 6 hours, and then allowed to cool to room temperature overnight. The mixture was acidified with 3200 ml. of 6 N hydrochloric acid. Most of the product crystallized as fine crystals. Then, 14 l. of water was added in a stream over 30 minutes, which precipitated all of the product. The mixture was aged with stirring for 4 hours at 30° C. The mixture was filtered on a cap funnel and washed with water until the wash water showed neutral. The product was dried in an oven at 50° C. overnight. The product, having a m.p. of 245°-248° C., was obtained in 98% yield (2.313 g.).

reactant | methyl 4-androsten-3-one-17β-carboxylate | C[C@@]12[C@H](CC[C@H]1[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O)C(=O)OC | C21H30O3
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | O | H2O
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | methanol | 24.6 l | CO | CH4O
product | 4-androsten-3-one-17β-carboxylic acid | 98% yield | C[C@@]12[C@H](CC[C@H]1[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O)C(=O)O | C20H28O3
